US07763639B2
1-[3-(1-ETHYLPIPERIDIN-4-YL)-2-FLUOROPHENYL]-2,2,2-TRIFLUOROETHANOL
Preparation according to Example 1: 2,2,2-trifluoro-1-(2-fluoro-3-piperidin-4-ylphenyl)ethanol (0.01 g), acetonitrile (2 ml), potassium carbonate (0.01 g) and iodoethane (0.01 g). MS m/z (rel. intensity, 70 eV) 305 (M+, 17), 304 (13), 291 (15), 290 (bp), 149 (5).

reactant | 2,2,2-trifluoro-1-(2-fluoro-3-piperidin-4-ylphenyl)ethanol | 0.01 g | FC(C(O)C1=C(C(=CC=C1)C1CCNCC1)F)(F)F | C13H15F4NO
reactant | potassium carbonate | 0.01 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 0.01 g | ICC | C2H5I
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 1-[3-(1-ETHYLPIPERIDIN-4-YL)-2-FLUOROPHENYL]-2,2,2-TRIFLUOROETHANOL | C(C)N1CCC(CC1)C=1C(=C(C=CC1)C(C(F)(F)F)O)F | C15H19F4NO
